US05888475
2β-Carbomethoxy-3β-(4-Iodophenyl)tropane 6
50 mg of 2β-carbomethoxy-3β-(4-trimethylsilylphenyl) tropane was dissolved in 5 ml of CCl4 at ambient temperature. To this was added 40 mg of iodine monochloride after which the solution was stirred for 2 h, then poured into 20 mL of 10% sodium thiosulfate (Reaction 7). The two phase solution was shaken until the dark color disappeared, made basic with saturated sodium bicarbonate, and the organic layer separated. The aqueous layer was extracted three times with 10 mL portions of CHCl3 and the combined organic layers were then washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was dissolved in a small portion of ether and chromatographed using a flash SiO2 column (10"×1/2", ether/hexane 1/2) and the eluents concentrated to yield 53 mg of (91%) CIT. No isomerization of the ester moiety was detected by TLC or NMR.

reactant | 2β-carbomethoxy-3β-(4-trimethylsilylphenyl) tropane | 50 mg | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)[Si](C)(C)C)N2C | C19H29NO2Si
reactant | iodine monochloride | 40 mg | ICl | ClI
reactant | sodium thiosulfate | 20 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CCl4 | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2β-Carbomethoxy-3β-(4-Iodophenyl)tropane | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)I)N2C | C16H20INO2
